US04054569
N-Formyl-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-10-methylamine (6.7 g, 0.027 mole), described in Example 334, in combined with polyphosphoric acid (50 g) and the mixture stirred for 3.5 hr. at 155° - 160° C. (bath temperature). The darkish reaction mixture is poured hot into stirred ice-water (400 ml). After stirring for 0.5 hr. (and treatment of the sticky precipitate with a glass rod) a solution of sodium hydroxide (60 g) in water is added, followed by chloroform. The chloroform solution is twice replaced by fresh chloroform and after 1 hr. the precipitate is almost dissolved. The combined chloroform solutions are washed with water, dried (Na2SO4) and taken to dryness to give a dark residue. The residue is dissolved in a little benzene and subjected to chromatography on neutral alumina (300 g). Elution with hexane-benzene (1:1) and benzene-ethyl acetate (9.5: 0.5) gives an oil which on crystallization from a concentrated ether solution gives 1,7,12,12a-tetrahydrobenzo[1,2]cyclohepta[4,5,6-de]isoquinoline, m.p. 91° - 93° C, γmaxCHCl3 1629, 1588, 1578, 1490 cm-1. The corresponding hydrochloride acid addition salt has m.p. 285° - 289° C, after recrystallization from chloroform-ether and methanol-ether.

reactant | N-Formyl-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-10-methylamine | 0.027 mole, 6.7 g | C(=O)NCC1CC2=C(CC3=C1C=CC=C3)C=CC=C2 | C17H17NO
reactant | sodium hydroxide | 60 g | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,7,12,12a-tetrahydrobenzo[1,2]cyclohepta[4,5,6-de]isoquinoline | C1N=CC=2C=CC=C3C2C1CC1=C(C3)C=CC=C1 | C17H15N
